US05858995
A mixture of 3-chloromethyl-2-methyl-7-nitrobenzo[b]furan (226 mg) and triethyl phosphite (0.52 ml) was stirred at 100° C. for 6 hours. The reaction mixture was cooled and concentrated in vacuo and to the residue was added toluene. The mixture was concentrated in vacuo and the residue was purified by column chromatography on silica gel. The obtained oil was crystallized from diisopropyl ether to give 3-(diethoxyphosphorylmethyl)-2-methyl-7-nitrobenzo[b]furan (93 mg).

reactant | 3-chloromethyl-2-methyl-7-nitrobenzo[b]furan | 226 mg | ClCC=1C2=C(OC1C)C(=CC=C2)[N+](=O)[O-] | C10H8ClNO3
reactant | triethyl phosphite | 0.52 ml | P(OCC)(OCC)OCC | C6H15O3P
product | 3-(diethoxyphosphorylmethyl)-2-methyl-7-nitrobenzo[b]furan | 93 mg | C(C)OP(=O)(OCC)CC=1C2=C(OC1C)C(=CC=C2)[N+](=O)[O-] | C14H18NO6P
